US06284785B1
(RS)-2-Thien-3-yl-1-(toluene-4-sulfonyl)-pyrrolidine
The title compound, white solid, m.p. 114° C. and MS: m/e=308.2 (M+H+) was prepared in accordance with the general method of example 1e from (RS)-2-thien-3-yl-pyrrolidine and toluene-4-sulfonyl chloride.

reactant | (RS)-2-thien-3-yl-pyrrolidine | S1C=C(C=C1)C1NCCC1 | C8H11NS
reactant | toluene-4-sulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | (RS)-2-Thien-3-yl-1-(toluene-4-sulfonyl)-pyrrolidine | S1C=C(C=C1)C1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C | C15H17NO2S2
